US05556864
16(a) 2-{2-[4-(4-Isopropylphenyl)butyl]phenoxymethyl}oxirane
Following a procedure similar to that described in Example 1(a), 3.04 g of 2-[4-(4-isopropylphenyl)butyl]phenol (prepared as described in Preparation 8), 1.27 g of potassium t-butoxide and 3.11 g of epibromohydrin were reacted in 60 ml of dimethylacetamide. The crude product, extracted as described in Example 1(a), was purified as described in Example 1(a), to give 3.23 g (yield 88%) of the title compound as a colorless oil.

reactant | 2-[4-(4-isopropylphenyl)butyl]phenol | 3.04 g | C(C)(C)C1=CC=C(C=C1)CCCCC1=C(C=CC=C1)O | C19H24O
reactant | potassium t-butoxide | 1.27 g | CC(C)([O-])C.[K+]
reactant | epibromohydrin | 3.11 g | C(Br)C1CO1 | C3H5BrO
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | 2-{2-[4-(4-Isopropylphenyl)butyl]phenoxymethyl}oxirane | 3.23 g, yield 88% | C(C)(C)C1=CC=C(C=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C22H28O2
